US06989392B2
8-hexylquinolin-2-amine
A solution of 2-amino-8-trifluoromethanesulfonylquinoline (50.0 mg, 0.171 mmol) in THF (1.0 mL) was degassed by bubbling N2 through the solution under vacuum for 5 min. The solution was added to a glass screw-top tube containing Pd(dppf)2Cl2.CH2Cl2 (13.9 mg, 0.1 equiv). Argon was then bubbled through the mixture for 1 minute, and 1-hexylzinc bromide (1.0 mL, 1 M in THF) was added. The tube was quickly sealed and placed in a heater/shaker at 65° C. for 20 h. The reaction mixture was cooled to room temperature, filtered through a 0.45 μm filter, and concentrated. The residue was dissolved in 1:1 DMSO/MeOH, filtered through a 0.45 μm filter, and purified by reverse phase HPLC. 1H NMR (300 MHz, DMSO-d6) δ 9.10 (br s, 1H), 8.36 (br s, 1H), 8.23 (br s, 1H), 7.77 (d, 1H), 7.63 (d, 1H), 7.43 (br s, 1H), 7.10 (d, 1H), 1.41–1.25 (m, 10H), 0.86 (t, 3H); MS (DCI/NH3) m/z 228 [M]+.

reactant | 2-amino-8-trifluoromethanesulfonylquinoline | 0.171 mmol, 50.0 mg | NC1=NC2=C(C=CC=C2C=C1)S(=O)(=O)C(F)(F)F | C10H7F3N2O2S
reactant | CH2Cl2 | 13.9 mg, 0.1 equiv | C(Cl)Cl | CH2Cl2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 8-hexylquinolin-2-amine | C(CCCCC)C=1C=CC=C2C=CC(=NC12)N | C15H20N2
